US08802690B2
To a solution of methyl 2-(chlorocarbonyl)isonicotinate in dichloromethane (500 mL) was added (Z)—N′-hydroxyacetimidamide and triethylamine, keeping the temperature at 25-30° C. for 1 day. The reaction was concentrated in vacuo to afford (Z)-methyl 2-((1-aminoethylideneaminooxy)carbonyl)isonicotinate as a yellow solid.

reactant | methyl 2-(chlorocarbonyl)isonicotinate | ClC(=O)C=1C=C(C(=O)OC)C=CN1 | C8H6ClNO3
reactant | (Z)—N′-hydroxyacetimidamide | O\N=C(\C)/N | C2H6N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | (Z)-methyl 2-((1-aminoethylideneaminooxy)carbonyl)isonicotinate | N\C(\C)=N/OC(=O)C=1C=C(C(=O)OC)C=CN1 | C10H11N3O4
